US08097617B2
7-Aminomethyl-6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridin-8-ylamine
To a solution of 8-amino-6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridine-7-carbonitrile (32.5 mg, 0.11 mmol) in THF (1 mL) was added a BH3.THF complex (1.0 M solution in THF, 0.43 mL, 0.43 mmol) followed by 4 M HCl in dioxane (2 drops). The reaction mixture was stirred and refluxed for 4 h, then cooled to 0° C. (ice bath) and poured into MeOH. The mixture was concentrated under vacuum, then the remaining residue was dissolved in TFA, evaporated to dryness and purified by reverse phase prep-HPLC (Waters system) to give the title compound (2TFA salt, 35.7 mg, 0.067 mmol, 62%). MS: 307 [M+1]+; HPLC: AtRet=0.99.

reactant | 8-amino-6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridine-7-carbonitrile | 0.11 mmol, 32.5 mg | NC=1C=2N(C=C(C1C#N)C1=C(C=C(C=C1)Cl)Cl)C=CN2 | C14H8Cl2N4
reactant | BH3.THF | 0.43 mmol, 1.0 M, 0.43 mL | B.C1CCOC1
reactant | HCl | 4 M | Cl | ClH
reactant | MeOH | CO | CH4O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | dioxane | 2 drops | O1CCOCC1 | C4H8O2
product | 7-Aminomethyl-6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridin-8-ylamine | 0.067 mmol, 35.7 mg, 62% | NCC1=C(C=2N(C=C1C1=C(C=C(C=C1)Cl)Cl)C=CN2)N | C14H12Cl2N4
